US07138425B2
e) 2-[3-(5-Trifluoromethylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-6-propylaminophenyl)-5-trifluoromethylbenzoxazole (113 mg, 0.4 mmol) and 1,2,4-benzenetricarboxylic anhydride (96 mg, 0.5 mmol) the title compound was obtained (120 mg, 59%). 1H NMR (DMSO) δ 8.41(m, 2H), 8.30(s, 1H), 8.23(s, 1H), 8.12(d, 1H), 8.07(d, 1H), 7.97(d, 1H), 7.77(d, 1H), 7.49(dd, 1H), 7.04(d, 1H), 3.34(m, 2H) 1.75(m, 2H), 1.06(t, 3H). MS 507.7 m/z (M−H)−.

reactant | 2-(3-amino-6-propylaminophenyl)-5-trifluoromethylbenzoxazole | 0.4 mmol, 113 mg | NC=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C17H16F3N3O
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.5 mmol, 96 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[3-(5-Trifluoromethylbenzoxazol-2-yl)-4-propylaminophenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | FC(C=1C=CC2=C(N=C(O2)C=2C=C(C=CC2NCCC)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C1)(F)F | C26H18F3N3O5
